US06407092B1
Preparation of 10-Benzoyl-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-ol.
A solution of 10-benzoyl-5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-one (1.46 g, 4.24 mmol) in ethanol (40 mL) was cooled to 0° C. under N2. Added sodium borohydride (0.32 g, 8.46 mmol) and allowed to warm slowly to room temperature. Concentrated under reduced pressure to approximately 10 mL, diluted with H2O, and extracted with CH2Cl2. The combined organic extracts were washed with saturated aqueous NaCl, dried over Na2SO4, decanted, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography with EtOAc/heptanes (2:1) to give 1.24 g (84%) of the title compound as a yellow foam. 1H NMR (CDCl3) δ 7.42, 7.33, 7.12-7.02, 5.10, 4.13, 4.02, 3.68, 3.21, 2.92, 2.38, 2.23, 1.80; IR (drift) 1627, 1614, 1475, 1466, 1457, 1448, 1429, 1372, 1360, 1329, 1292, 1268, 785, 747, 706 cm−1; MS (ESI) 369.1 (M++Na).

reactant | 10-benzoyl-5,6,9,10,11,12-hexahydro-4H,8H-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-one | 4.24 mmol, 1.46 g | C(C1=CC=CC=C1)(=O)N1CCC2=C(N3CCC(C4=CC=CC2=C34)=O)CC1 | C22H20N2O2
reactant | sodium borohydride | 8.46 mmol, 0.32 g | [BH4-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 10-Benzoyl-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-ol | 1.24 g, 84% | C(C1=CC=CC=C1)(=O)N1CCC2C(N3CCC(C4=CC=CC2=C34)O)CC1 | C22H24N2O2
